US06159979
To a stirred suspension of 1-naphthoic acid (90 g, 0.52 mol) in glacial acetic acid at 100° C. was added bromine (84 g, 0.52 mol). The reaction was stirred at this temperature for 1.5 hours and then allowed to cool overnight. The resulting slurry was diluted with glacial acetic acid, the solid collected by filtration, resuspended in water, filtered and dried in vacuo to give 5-bromo-1-napthoic acid (100 g). The acid was converted to the title compound using a similar procedure to Description 3 (68%).

reactant | 1-naphthoic acid | 0.52 mol, 90 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | bromine | 0.52 mol, 84 g | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-bromo-1-napthoic acid | 100 g | BrC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7BrO2
